US08309546B2
Step 2: tert-Butyl (3S)-3-(2-chloro-6-morpholin-4-yl-9H-purin-9-yl)pyrrolidine-1-carboxylate
Morpholine (0.8 ml) and ethanol (10 ml) were added to tert-butyl (3S)-3-(2,6-dichloro-9H-purin-9-yl)pyrrolidine-1-carboxylate (1.55 g, 4.3 mmol) and the resulting mixture was stirred at 80° C. for 2 hours. The reaction mixture was cooled and then the solvent was evaporated under reduced pressure. The residue was partitioned with ethyl acetate and saturated aqueous sodium bicarbonate solution, the organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (1.76 g, 100%) as a white solid.

reactant | Morpholine | 0.8 ml | N1CCOCC1 | C4H9NO
reactant | tert-butyl (3S)-3-(2,6-dichloro-9H-purin-9-yl)pyrrolidine-1-carboxylate | 4.3 mmol, 1.55 g | ClC1=NC(=C2N=CN(C2=N1)[C@@H]1CN(CC1)C(=O)OC(C)(C)C)Cl | C14H17Cl2N5O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | tert-Butyl (3S)-3-(2-chloro-6-morpholin-4-yl-9H-purin-9-yl)pyrrolidine-1-carboxylate | 1.76 g, 100% | ClC1=NC(=C2N=CN(C2=N1)[C@@H]1CN(CC1)C(=O)OC(C)(C)C)N1CCOCC1 | C18H25ClN6O3
